* C:\FOSSEE\eSim\library\SubcircuitLibrary\LM160_Sub\LM160_Sub.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 07/06/24 16:26:27

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R24  Net-_Q32-Pad1_ Net-_Q35-Pad1_ 1k		
R28  Net-_Q32-Pad1_ Net-_Q39-Pad2_ 4k		
R29  Net-_Q32-Pad1_ Net-_Q40-Pad3_ 1.4k		
R33  Net-_Q32-Pad1_ Net-_Q44-Pad1_ 85		
Q39  Net-_Q39-Pad1_ Net-_Q39-Pad2_ Net-_Q35-Pad1_ eSim_NPN		
Q43  Net-_Q40-Pad3_ Net-_Q39-Pad1_ Net-_D3-Pad1_ eSim_NPN		
Q40  Net-_Q39-Pad1_ Net-_Q39-Pad2_ Net-_Q40-Pad3_ eSim_NPN		
Q41  Net-_Q40-Pad3_ Net-_Q39-Pad1_ Net-_Q41-Pad3_ eSim_NPN		
D3  Net-_D3-Pad1_ Net-_D3-Pad2_ eSim_Diode		
Q44  Net-_Q44-Pad1_ Net-_Q40-Pad3_ Net-_D3-Pad1_ eSim_NPN		
R30  Net-_Q41-Pad3_ Net-_Q47-Pad2_ 205		
R31  Net-_Q47-Pad2_ GND 800		
Q47  Net-_D3-Pad2_ Net-_Q47-Pad2_ GND eSim_NPN		
Q30  Net-_Q30-Pad1_ Net-_Q29-Pad1_ Net-_Q30-Pad3_ eSim_NPN		
U7  Net-_Q31-Pad1_ Net-_Q30-Pad3_ zener		
Q32  Net-_Q32-Pad1_ Net-_Q27-Pad1_ Net-_Q32-Pad3_ eSim_NPN		
U8  Net-_Q33-Pad1_ Net-_Q32-Pad3_ zener		
Q34  Net-_Q34-Pad1_ Net-_Q33-Pad1_ Net-_Q34-Pad3_ eSim_NPN		
R25  Net-_Q35-Pad1_ Net-_Q34-Pad1_ 1.3k		
Q35  Net-_Q35-Pad1_ Net-_Q34-Pad1_ GND eSim_NPN		
Q37  Net-_Q37-Pad1_ Net-_Q37-Pad2_ GND eSim_NPN		
Q38  Net-_Q37-Pad2_ Net-_Q31-Pad1_ Net-_Q34-Pad3_ eSim_NPN		
R27  Net-_Q37-Pad1_ Net-_Q37-Pad2_ 1.3k		
R26  Net-_Q30-Pad1_ Net-_Q37-Pad1_ 1k		
R23  Net-_Q30-Pad1_ Net-_Q29-Pad1_ 1450		
Q29  Net-_Q29-Pad1_ Net-_Q29-Pad2_ Net-_Q27-Pad3_ eSim_NPN		
Q27  Net-_Q27-Pad1_ Net-_Q27-Pad2_ Net-_Q27-Pad3_ eSim_NPN		
R21  Net-_Q30-Pad1_ Net-_Q27-Pad1_ 1450		
Q28  Net-_Q27-Pad3_ Net-_Q28-Pad2_ Net-_Q28-Pad3_ eSim_NPN		
R22  Net-_Q28-Pad3_ Net-_Q31-Pad3_ 400		
Q31  Net-_Q31-Pad1_ Net-_Q31-Pad2_ Net-_Q31-Pad3_ eSim_NPN		
Q33  Net-_Q33-Pad1_ Net-_Q31-Pad2_ Net-_Q31-Pad3_ eSim_NPN		
Q36  Net-_Q34-Pad3_ Net-_Q31-Pad2_ Net-_Q31-Pad3_ eSim_NPN		
R32  Net-_Q30-Pad1_ Net-_Q42-Pad2_ 4k		
R34  Net-_Q30-Pad1_ Net-_Q45-Pad3_ 1.4k		
R37  Net-_Q30-Pad1_ Net-_Q49-Pad1_ 85		
Q42  Net-_Q42-Pad1_ Net-_Q42-Pad2_ Net-_Q37-Pad1_ eSim_NPN		
Q48  Net-_Q45-Pad3_ Net-_Q42-Pad1_ Net-_D4-Pad1_ eSim_NPN		
Q45  Net-_Q42-Pad1_ Net-_Q42-Pad2_ Net-_Q45-Pad3_ eSim_NPN		
Q46  Net-_Q45-Pad3_ Net-_Q42-Pad1_ Net-_Q46-Pad3_ eSim_NPN		
D4  Net-_D4-Pad1_ Net-_D4-Pad2_ eSim_Diode		
Q49  Net-_Q49-Pad1_ Net-_Q45-Pad3_ Net-_D4-Pad1_ eSim_NPN		
R35  Net-_Q46-Pad3_ Net-_Q50-Pad2_ 205		
R36  Net-_Q50-Pad2_ GND 800		
Q50  Net-_D4-Pad2_ Net-_Q50-Pad2_ GND eSim_NPN		
Q51  Net-_Q30-Pad1_ Net-_Q51-Pad2_ Net-_Q51-Pad3_ eSim_NPN		
R38  Net-_Q51-Pad3_ Net-_Q28-Pad2_ 3.2k		
R39  Net-_Q28-Pad2_ Net-_Q31-Pad2_ 387		
R40  Net-_Q30-Pad1_ Net-_Q51-Pad2_ 5k		
U9  Net-_Q31-Pad3_ Net-_Q51-Pad2_ zener		
Q52  Net-_Q31-Pad2_ Net-_Q31-Pad2_ Net-_Q31-Pad3_ eSim_NPN		
U6  GND Net-_Q29-Pad2_ Net-_Q27-Pad2_ Net-_Q31-Pad3_ GND Net-_D4-Pad2_ Net-_D3-Pad2_ Net-_Q30-Pad1_ PORT		

.end
