* c:\fossee\esim\library\subcircuitlibrary\lt1009\lt1009.cir

.include PNP.lib
.include NPN.lib
q14 net-_q11-pad2_ net-_q11-pad2_ anode Q2N2222
q7 net-_q5-pad2_ net-_q10-pad1_ net-_q4-pad3_ Q2N2907A
q9 net-_q4-pad3_ net-_q15-pad1_ cathode Q2N2907A
q4 net-_c2-pad1_ net-_c2-pad2_ net-_q4-pad3_ Q2N2907A
q5 net-_c2-pad1_ net-_q5-pad2_ net-_q3-pad2_ Q2N2222
q2 cathode net-_c2-pad1_ net-_q1-pad2_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q11 net-_q10-pad3_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
q8 net-_q5-pad2_ net-_q5-pad2_ net-_q3-pad2_ Q2N2222
q3 net-_q1-pad2_ net-_q3-pad2_ anode Q2N2222
q12 net-_c2-pad2_ net-_q12-pad2_ net-_q10-pad3_ Q2N2222
q13 cathode cathode net-_q13-pad3_ Q2N2222
q1 cathode net-_q1-pad2_ anode Q2N2222
q6 net-_q3-pad2_ net-_q3-pad2_ anode Q2N2222
c1  net-_c1-pad1_ cathode 20p
r1  net-_c1-pad1_ net-_c2-pad1_ 10k
c2  net-_c2-pad1_ net-_c2-pad2_ 30p
r2  net-_q10-pad1_ net-_q15-pad1_ 24k
r3  anode net-_q11-pad3_ 720
r4  net-_c2-pad2_ net-_q15-pad1_ 24k
r7  net-_q11-pad2_ net-_q10-pad2_ 6.6k
r5  net-_q12-pad2_ net-_q13-pad3_ 6.6k
r8  net-_q10-pad2_ adj 30k
r6  net-_q10-pad2_ net-_q12-pad2_ 500
* u1  anode adj cathode port
q15 net-_q15-pad1_ net-_q15-pad1_ cathode Q2N2907A
.tran 0.1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
