* C:\FOSSEE\eSim\library\SubcircuitLibrary\LT1011_sub\LT1011_sub.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 07/07/24 17:05:56

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R30  Net-_J2-Pad1_ Net-_Q35-Pad3_ 3k		
Q35  Net-_D7-Pad2_ Net-_Q35-Pad2_ Net-_Q35-Pad3_ eSim_PNP		
Q34  Net-_J2-Pad2_ Net-_D5-Pad2_ Net-_D7-Pad2_ eSim_PNP		
Q37  Net-_J2-Pad2_ Net-_D6-Pad2_ Net-_D8-Pad2_ eSim_PNP		
Q38  Net-_J2-Pad1_ Net-_J2-Pad1_ Net-_Q38-Pad3_ eSim_NPN		
R31  Net-_Q38-Pad3_ Net-_Q35-Pad2_ 160		
D7  Net-_D5-Pad1_ Net-_D7-Pad2_ eSim_Diode		
Q39  Net-_Q35-Pad2_ Net-_D7-Pad2_ Net-_D5-Pad1_ eSim_NPN		
R33  Net-_Q44-Pad3_ Net-_R33-Pad2_ 300		
R43  Net-_Q53-Pad3_ Net-_Q50-Pad1_ 4k		
R35  Net-_J2-Pad1_ Net-_Q44-Pad3_ 1.3k		
R36  Net-_J2-Pad1_ Net-_Q45-Pad3_ 1.3k		
Q44  Net-_Q43-Pad3_ Net-_Q35-Pad2_ Net-_Q44-Pad3_ eSim_PNP		
Q45  Net-_Q35-Pad2_ Net-_Q35-Pad2_ Net-_Q45-Pad3_ eSim_PNP		
U5  Net-_U5-PadIN_ Net-_Q43-Pad3_ zener		
U6  Net-_U5-PadIN_ Net-_Q35-Pad2_ zener		
Q43  Net-_J2-Pad2_ Net-_D5-Pad1_ Net-_Q43-Pad3_ eSim_PNP		
Q41  Net-_Q35-Pad2_ Net-_D8-Pad2_ Net-_D5-Pad1_ eSim_NPN		
D8  Net-_D5-Pad1_ Net-_D8-Pad2_ eSim_Diode		
Q40  Net-_D5-Pad1_ Net-_Q40-Pad2_ Net-_Q40-Pad3_ eSim_NPN		
Q42  Net-_D5-Pad1_ Net-_Q40-Pad2_ Net-_Q42-Pad3_ eSim_NPN		
R34  Net-_Q42-Pad3_ Net-_J2-Pad2_ 1.6k		
R42  Net-_Q51-Pad3_ Net-_J2-Pad2_ 275		
R50  Net-_J2-Pad1_ Net-_Q54-Pad1_ 800		
R39  Net-_Q54-Pad3_ Net-_Q45-Pad3_ 300		
Q53  Net-_J2-Pad1_ Net-_Q50-Pad1_ Net-_Q53-Pad3_ eSim_NPN		
Q58  Net-_Q58-Pad1_ Net-_Q53-Pad3_ Net-_Q54-Pad1_ eSim_PNP		
R41  Net-_J2-Pad1_ Net-_Q50-Pad1_ 800		
R32  Net-_Q40-Pad3_ Net-_J2-Pad2_ 1.6k		
Q46  Net-_J2-Pad2_ Net-_D5-Pad1_ Net-_Q35-Pad2_ eSim_PNP		
Q48  Net-_Q47-Pad3_ Net-_Q40-Pad2_ Net-_Q48-Pad3_ eSim_NPN		
R38  Net-_Q47-Pad1_ Net-_Q35-Pad2_ 3.2k		
Q47  Net-_Q47-Pad1_ Net-_Q43-Pad3_ Net-_Q47-Pad3_ eSim_NPN		
R40  Net-_Q49-Pad1_ Net-_Q35-Pad2_ 3.2k		
Q50  Net-_Q50-Pad1_ Net-_Q47-Pad1_ Net-_Q50-Pad3_ eSim_NPN		
R37  Net-_Q48-Pad3_ Net-_J2-Pad2_ 500		
Q51  Net-_Q50-Pad3_ Net-_Q40-Pad2_ Net-_Q51-Pad3_ eSim_NPN		
Q49  Net-_Q49-Pad1_ Net-_Q35-Pad2_ Net-_Q47-Pad3_ eSim_NPN		
Q54  Net-_Q54-Pad1_ Net-_Q54-Pad1_ Net-_Q54-Pad3_ eSim_NPN		
Q56  Net-_Q54-Pad1_ Net-_Q49-Pad1_ Net-_Q50-Pad3_ eSim_NPN		
R46  Net-_R46-Pad1_ Net-_Q40-Pad2_ 200		
Q57  Net-_Q53-Pad3_ Net-_Q57-Pad2_ Net-_Q57-Pad3_ eSim_NPN		
R48  Net-_R46-Pad1_ Net-_Q57-Pad3_ 800		
R49  Net-_R45-Pad2_ Net-_R46-Pad1_ 700		
R45  Net-_Q52-Pad2_ Net-_R45-Pad2_ 940		
Q52  Net-_Q40-Pad2_ Net-_Q52-Pad2_ Net-_J2-Pad2_ eSim_NPN		
Q55  Net-_Q55-Pad1_ Net-_Q55-Pad1_ Net-_J2-Pad2_ eSim_NPN		
R44  Net-_Q52-Pad2_ Net-_Q55-Pad1_ 960		
R47  Net-_R45-Pad2_ Net-_J2-Pad2_ 4.8k		
Q65  Net-_J2-Pad1_ Net-_Q58-Pad1_ Net-_Q65-Pad3_ eSim_NPN		
R54  Net-_Q65-Pad3_ Net-_Q66-Pad2_ 170		
R53  Net-_Q58-Pad1_ Net-_Q65-Pad3_ 4k		
Q66  Net-_Q64-Pad2_ Net-_Q66-Pad2_ Net-_Q62-Pad2_ eSim_NPN		
J2  Net-_J2-Pad1_ Net-_J2-Pad2_ Net-_J2-Pad3_ jfet_n		
Q59  Net-_Q57-Pad2_ Net-_J2-Pad3_ Net-_Q59-Pad3_ eSim_NPN		
R51  Net-_Q57-Pad2_ Net-_J2-Pad3_ 200		
Q60  Net-_Q59-Pad3_ Net-_Q59-Pad3_ Net-_Q60-Pad3_ eSim_NPN		
Q61  Net-_Q60-Pad3_ Net-_Q60-Pad3_ Net-_J2-Pad2_ eSim_NPN		
Q63  Net-_Q58-Pad1_ Net-_Q58-Pad1_ Net-_Q63-Pad3_ eSim_NPN		
Q64  Net-_J2-Pad2_ Net-_Q64-Pad2_ Net-_Q63-Pad3_ eSim_PNP		
R55  Net-_Q66-Pad2_ Net-_Q62-Pad2_ 470		
Q62  Net-_Q58-Pad1_ Net-_Q62-Pad2_ Net-_Q62-Pad3_ eSim_NPN		
R52  Net-_Q62-Pad3_ Net-_R52-Pad2_ 400		
R57  Net-_Q62-Pad2_ Net-_R52-Pad2_ 4		
Q36  Net-_D7-Pad2_ Net-_D8-Pad2_ Net-_Q35-Pad3_ eSim_PNP		
D5  Net-_D5-Pad1_ Net-_D5-Pad2_ eSim_Diode		
D6  Net-_D5-Pad1_ Net-_D6-Pad2_ eSim_Diode		
U4  Net-_R52-Pad2_ Net-_D5-Pad2_ Net-_D6-Pad2_ Net-_J2-Pad2_ Net-_R33-Pad2_ Net-_Q54-Pad3_ Net-_Q64-Pad2_ Net-_J2-Pad1_ PORT		

.end
