* c:\fossee\esim\library\subcircuitlibrary\lt1011_sub\lt1011_sub.cir

.include NPN.lib
.include PNP.lib
.include schottky.lib
.include NJF.lib
.include D.lib
r30  net-_j2-pad1_ net-_q35-pad3_ 3k
q35 net-_d7-pad2_ net-_q35-pad2_ net-_q35-pad3_ Q2N2907A
q34 net-_j2-pad2_ net-_d5-pad2_ net-_d7-pad2_ Q2N2907A
q37 net-_j2-pad2_ net-_d6-pad2_ net-_d8-pad2_ Q2N2907A
q38 net-_j2-pad1_ net-_j2-pad1_ net-_q38-pad3_ Q2N2222
r31  net-_q38-pad3_ net-_q35-pad2_ 160
d7 net-_d5-pad1_ net-_d7-pad2_ 1N4148
q39 net-_q35-pad2_ net-_d7-pad2_ net-_d5-pad1_ Q2N2222
r33  net-_q44-pad3_ net-_r33-pad2_ 300
r43  net-_q53-pad3_ net-_q50-pad1_ 4k
r35  net-_j2-pad1_ net-_q44-pad3_ 1.3k
r36  net-_j2-pad1_ net-_q45-pad3_ 1.3k
q44 net-_q43-pad3_ net-_q35-pad2_ net-_q44-pad3_ Q2N2907A
q45 net-_q35-pad2_ net-_q35-pad2_ net-_q45-pad3_ Q2N2907A
* u5  net-_u5-padin_ net-_q43-pad3_ zener
* u6  net-_u5-padin_ net-_q35-pad2_ zener
q43 net-_j2-pad2_ net-_d5-pad1_ net-_q43-pad3_ Q2N2907A
q41 net-_q35-pad2_ net-_d8-pad2_ net-_d5-pad1_ Q2N2222
d8 net-_d5-pad1_ net-_d8-pad2_ 1N4148
q40 net-_d5-pad1_ net-_q40-pad2_ net-_q40-pad3_ Q2N2222
q42 net-_d5-pad1_ net-_q40-pad2_ net-_q42-pad3_ Q2N2222
r34  net-_q42-pad3_ net-_j2-pad2_ 1.6k
r42  net-_q51-pad3_ net-_j2-pad2_ 275
r50  net-_j2-pad1_ net-_q54-pad1_ 800
r39  net-_q54-pad3_ net-_q45-pad3_ 300
q53 net-_j2-pad1_ net-_q50-pad1_ net-_q53-pad3_ Q2N2222
q58 net-_q58-pad1_ net-_q53-pad3_ net-_q54-pad1_ Q2N2907A
r41  net-_j2-pad1_ net-_q50-pad1_ 800
r32  net-_q40-pad3_ net-_j2-pad2_ 1.6k
q46 net-_j2-pad2_ net-_d5-pad1_ net-_q35-pad2_ Q2N2907A
q48 net-_q47-pad3_ net-_q40-pad2_ net-_q48-pad3_ Q2N2222
r38  net-_q47-pad1_ net-_q35-pad2_ 3.2k
q47 net-_q47-pad1_ net-_q43-pad3_ net-_q47-pad3_ Q2N2222
r40  net-_q49-pad1_ net-_q35-pad2_ 3.2k
q50 net-_q50-pad1_ net-_q47-pad1_ net-_q50-pad3_ Q2N2222
r37  net-_q48-pad3_ net-_j2-pad2_ 500
q51 net-_q50-pad3_ net-_q40-pad2_ net-_q51-pad3_ Q2N2222
q49 net-_q49-pad1_ net-_q35-pad2_ net-_q47-pad3_ Q2N2222
q54 net-_q54-pad1_ net-_q54-pad1_ net-_q54-pad3_ Q2N2222
q56 net-_q54-pad1_ net-_q49-pad1_ net-_q50-pad3_ Q2N2222
r46  net-_r46-pad1_ net-_q40-pad2_ 200
q57 net-_q53-pad3_ net-_q57-pad2_ net-_q57-pad3_ Q2N2222
r48  net-_r46-pad1_ net-_q57-pad3_ 800
r49  net-_r45-pad2_ net-_r46-pad1_ 700
r45  net-_q52-pad2_ net-_r45-pad2_ 940
q52 net-_q40-pad2_ net-_q52-pad2_ net-_j2-pad2_ Q2N2222
q55 net-_q55-pad1_ net-_q55-pad1_ net-_j2-pad2_ Q2N2222
r44  net-_q52-pad2_ net-_q55-pad1_ 960
r47  net-_r45-pad2_ net-_j2-pad2_ 4.8k
q65 net-_j2-pad1_ net-_q58-pad1_ net-_q65-pad3_ Q2N2222
r54  net-_q65-pad3_ net-_q66-pad2_ 170
r53  net-_q58-pad1_ net-_q65-pad3_ 4k
q66 net-_q64-pad2_ net-_q66-pad2_ net-_q62-pad2_ Q2N2222
j2 net-_j2-pad1_ net-_j2-pad2_ net-_j2-pad3_ J2N3819
q59 net-_q57-pad2_ net-_j2-pad3_ net-_q59-pad3_ Q2N2222
r51  net-_q57-pad2_ net-_j2-pad3_ 200
q60 net-_q59-pad3_ net-_q59-pad3_ net-_q60-pad3_ Q2N2222
q61 net-_q60-pad3_ net-_q60-pad3_ net-_j2-pad2_ Q2N2222
q63 net-_q58-pad1_ net-_q58-pad1_ net-_q63-pad3_ Q2N2222
q64 net-_j2-pad2_ net-_q64-pad2_ net-_q63-pad3_ Q2N2907A
r55  net-_q66-pad2_ net-_q62-pad2_ 470
q62 net-_q58-pad1_ net-_q62-pad2_ net-_q62-pad3_ Q2N2222
r52  net-_q62-pad3_ net-_r52-pad2_ 400
r57  net-_q62-pad2_ net-_r52-pad2_ 4
q36 net-_d7-pad2_ net-_d8-pad2_ net-_q35-pad3_ Q2N2907A
d5 net-_d5-pad1_ net-_d5-pad2_ 1N5819
d6 net-_d5-pad1_ net-_d6-pad2_ 1N5819
* u4  net-_r52-pad2_ net-_d5-pad2_ net-_d6-pad2_ net-_j2-pad2_ net-_r33-pad2_ net-_q54-pad3_ net-_q64-pad2_ net-_j2-pad1_ port
a1 net-_u5-padin_ net-_q43-pad3_ u5
a2 net-_u5-padin_ net-_q35-pad2_ u6
* Schematic Name:                             zener, NgSpice Name: zener
.model u5 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u6 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 0.01e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
